US09353107B2
Step-ii: N-(5-(3-(1-(2,5-difluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)methanesulfonamide
Using similar reaction conditions as described in step-iii of example-1, N-(5-(3-(1-(2,5-difluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxy phenyl)methanesulfonamide (100 mg, 0.14 mmol) was hydrolyzed by lithium hydroxide (30.3 mg, 0.722 mmol), THF/Methanol/water (3/3/1 ml) to afford 13 mg (28.2% yield) of the titled compound after purification by column (SiO2-eluted by 2% MeOH in CHCl3). 1H NMR (CDCl3, 300 MHz): δ 9.37 (s, 1H), 8.54 (s, 1H), 7.84-7.78 (m, 2H), 7.37-7.35 (m, 1H), 7.02-6.99 (m, 1H), 6.95-6.85 (m, 1H), 6.80-6.60 (m, 2H), 5.29 (s, 2H), 3.94 (s, 3H), 2.99 (s, 3H), 2.25 (s, 3H), 2.17 (s, 3H). MS: m/z=538.1 (M+1), HPLC Purity: 91.44%, (Method: B).

reactant | N-(5-(3-(1-(2,5-difluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxy phenyl)methanesulfonamide | 0.14 mmol, 100 mg | FC1=C(CN2N=C(C(=C2C)C2=CN(C3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)OC)S(=O)(=O)C3=CC=C(C)C=C3)C)C=C(C=C1)F | C34H31F2N5O5S2
reactant | lithium hydroxide | 0.722 mmol, 30.3 mg | [OH-].[Li+]
solvent | THF Methanol water | 1 ml | C1CCOC1.CO.O
product | N-(5-(3-(1-(2,5-difluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)methanesulfonamide | 13 mg, 28.2% yield | FC1=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)OC)C)C=C(C=C1)F | C27H25F2N5O3S
